US08106070B2
Sodium hydride (60 wt % in mineral oil) (69 mg, 1.15 mmol) was added to a 0° C. solution of benzyl {2-(4-bromophenyl)-1-[1-[(dimethylamino)sulfonyl]-4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]ethyl}carbamate (340 mg, 0.58 mmol) in tetrahydrofuran (6 mL). After stirring at 0° C. for 20 min, methyl iodide (72 μL, 1.15 mmol) was added and the reaction allowed to warm to ambient temperature. The reaction mixture was quenched with water and extracted with methylene chloride and ethyl acetate. The combined organic extracts were dried (magnesium sulfate) and concentrated in vacuo. Chromatography over silica eluting with 0-50% ethyl acetate/hexane afforded benzyl {2-(4-bromophenyl)-1-[1-[(dimethylamino)sulfonyl]-4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]ethyl}methylcarbamate.

reactant | Sodium hydride | 1.15 mmol, 69 mg | [H-].[Na+]
reactant | benzyl {2-(4-bromophenyl)-1-[1-[(dimethylamino)sulfonyl]-4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]ethyl}carbamate | 0.58 mmol, 340 mg | BrC1=CC=C(C=C1)CC(C=1N(C=C(N1)CC(CC)(C)C)S(=O)(=O)N(C)C)NC(OCC1=CC=CC=C1)=O | C27H35BrN4O4S
reactant | methyl iodide | 1.15 mmol, 72 μL | CI | CH3I
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | benzyl {2-(4-bromophenyl)-1-[1-[(dimethylamino)sulfonyl]-4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]ethyl}methylcarbamate | BrC1=CC=C(C=C1)CC(C=1N(C=C(N1)CC(CC)(C)C)S(=O)(=O)N(C)C)N(C(OCC1=CC=CC=C1)=O)C | C28H37BrN4O4S
